US07932272B2
2.6-Diamino-nicotinic acid ethyl ester
To a solution of 2,6-diamino-4,5-dihydronicotinic acid ethyl ester described in Preparation Example A-13 (4.5 g, 24.6 mmol) in tetrahydrofuran (300 mL) was added 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (5.6 g, 24.7 mmol), which was then stirred for 40 minutes at room temperature. The residue obtained by concentrating the reaction solution was then purified by NH silica gel column chromatography (ethyl acetate) to obtain a solid of the target compound. This solid was washed with hexane and dried to obtain the title compound (3.1 g, 17.1 mmol, 69.5%).

reactant | 2,6-diamino-4,5-dihydronicotinic acid ethyl ester | C(C)OC(C1=C(N=C(CC1)N)N)=O | C8H13N3O2
reactant | 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone | 24.7 mmol, 5.6 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 2.6-Diamino-nicotinic acid ethyl ester | 17.1 mmol, 3.1 g, 69.5% | C(C)OC(C1=C(N=C(C=C1)N)N)=O | C8H11N3O2
